US05238600
4-pentyloxy-3-fluorobenzoic acid 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl ester;
4-hexyloxy-3-fluorobenzoic acid 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl ester; 4-octyloxy-3-fluorobenzoic acid 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl ester;

reactant | 4-hexyloxy-3-fluorobenzoic acid 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl ester | C(CCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)OC(C1=CC(=C(C=C1)OCCCCCC)F)=O | C33H47FO4
reactant | 4-octyloxy-3-fluorobenzoic acid 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl ester | C(CCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)OC(C1=CC(=C(C=C1)OCCCCCCCC)F)=O | C35H51FO4
product | 4-pentyloxy-3-fluorobenzoic acid 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl ester | C(CCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)OC(C1=CC(=C(C=C1)OCCCCC)F)=O | C32H45FO4
